### PR TITLE
[Merged by Bors] - feat: basic properties of `MulExpNegMulSq`

### PR DESCRIPTION
**Pull request by JakobStiefel**
Define `MulExpNegMulSq` and show basic properties. The function is an important tool in the proof of separation of finite measures by subalgebras of functions

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by RemyDegenne** [comment]
The diff of this PR contains much more than what the description claims. Perhaps you just need to merge master into this branch to reduce the diff?

**Comment by JakobStiefel** [comment]
> The diff of this PR contains much more than what the description claims. Perhaps you just need to merge master into this branch to reduce the diff?

True. I fixed this

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean [hunk 1]
```diff
@@ -55,6 +55,13 @@ theorem exp_log (hx : 0 < x) : exp (log x) = x := by
   rw [exp_log_eq_abs hx.ne']
   exact abs_of_pos hx
 
+theorem emul_le_exp {x : ℝ} : Real.exp 1 * x ≤ x.exp := by
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:58]: I can't find `emul` being used anywhere else like this. Rename?

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 2]
```diff
@@ -0,0 +1,187 @@
...
+Copyright (c) 2024 Jakob Stiefel. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jakob Stiefel
+-/
+import Mathlib.Data.Complex.ExponentialBounds
+import Mathlib.Topology.ContinuousMap.Bounded.Basic
+import Mathlib.Topology.MetricSpace.Pseudo.Basic
+
+/-!
+# Definition of mulExpNegMulSq and properties
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:11]:
```suggestion
# Definition of `mulExpNegMulSq` and properties
```
and below.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 3]
```diff
@@ -0,0 +1,187 @@
...
+
+#The mapping mulExpNegMulSq transforms a continuous function `g` into another continuous function
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:13]:
```suggestion
# The mapping mulExpNegMulSq transforms a continuous function `g` into another continuous function
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 4]
```diff
@@ -0,0 +1,187 @@
...
+
+variable {E: Type*}
+
+/--
+`mulExpNegMulSq` transforms a continuous function `g` into another continuous function with useful
+boundedness and convergence properties.
+-/
+noncomputable
+def mulExpNegMulSq [TopologicalSpace E] {g : E → ℝ} (hg: Continuous g) (ε : ℝ) :
+    ContinuousMap E ℝ where
```
Comment (kim-em) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:112]: It's a little strange that you take a function and continuity separately on the input side, but bundle them on the output side. Unless there's a good reason I'm missing, probably they should just be separate? You can add a `@[continuity]` attribute to the theorem.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 5]
```diff
@@ -0,0 +1,190 @@
...
+
+open NNReal ENNReal BoundedContinuousFunction Filter
+
+section mulExpNegSq
+
+/-! ### Definition and properties of `fun x => x * (Real.exp (- x * x))`-/
+
+/-- Definition of `mulExpNegSq` -/
+noncomputable
+def mulExpNegSq := fun x => x * (Real.exp (- x * x))
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:36]:
```suggestion
def mulExpNegSq (x : ℝ) := x * exp (- x * x)
```
If you are in the `Real` namespace, no need for `Real.`. Also, some of your parentheses are not necessary and clutter a little bit the expression. Finally, putting the variable left of the colon lets you write its type, making things clearer for the reader.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 6]
```diff
@@ -0,0 +1,190 @@
...
+
+theorem mulExpNegSq_apply (x : ℝ) : mulExpNegSq x = x * (Real.exp (- x * x)) :=  rfl
+
+theorem mulExpNegSq_symm (x : ℝ) : - mulExpNegSq (-x) = mulExpNegSq x  := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:40]:
```suggestion
theorem neg_mulExpNegSq_neg (x : ℝ) : - mulExpNegSq (-x) = mulExpNegSq x  := by
```
Following the order of symbols in the statement makes for a much more discoverable name.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 7]
```diff
@@ -0,0 +1,190 @@
...
+  simp only [mulExpNegSq, neg_mul, neg_neg, mul_neg]
+
+theorem mulExpNegSq_bounded_above (x : ℝ) : mulExpNegSq x ≤ 1 := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:43]:
```suggestion
theorem mulExpNegSq_le_one (x : ℝ) : mulExpNegSq x ≤ 1 := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 8]
```diff
@@ -0,0 +1,190 @@
...
+  rw [mulExpNegSq_apply, neg_mul, ← le_div_iff₀ (Real.exp_pos (-(x * x))), Real.exp_neg,
+    div_inv_eq_mul, one_mul]
+  apply le_trans _ (Real.add_one_le_exp (x * x))
+  nlinarith
+
+theorem mulExpNegSq_bounded (x : ℝ) : abs (mulExpNegSq x) ≤ 1 := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:49]:
```suggestion
theorem abs_mulExpNegSq_le_one (x : ℝ) : mulExpNegSq x| ≤ 1 := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 9]
```diff
@@ -0,0 +1,190 @@
...
+  apply abs_le.mpr ⟨_, mulExpNegSq_bounded_above x⟩
+  rw [← mulExpNegSq_symm, neg_le_neg_iff]
+  exact mulExpNegSq_bounded_above (-x)
+
+theorem expNegSq_deriv (y : ℝ) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:54]:
```suggestion
theorem deriv_expNegSq (y : ℝ) :
```
Try to follow the symbols in the statements.

**Review by sgouezel — COMMENTED** [review]
I've given a few hints on the naming convention, showing what the names of the first lemmas should look like. Do you think you could try to fix the other names following the same guidelines?

**Comment by JakobStiefel** [comment]
> I've given a few hints on the naming convention, showing what the names of the first lemmas should look like. Do you think you could try to fix the other names following the same guidelines?

Thanks for the detailed hints! I fixed the names, let me know if further adjustments are needed

File: Mathlib/Analysis/SpecialFunctions/Log/Basic.lean [hunk 10]
```diff
@@ -55,6 +55,13 @@ theorem exp_log (hx : 0 < x) : exp (log x) = x := by
   rw [exp_log_eq_abs hx.ne']
   exact abs_of_pos hx
 
+theorem exp_one_mul_le_exp {x : ℝ} : Real.exp 1 * x ≤ x.exp := by
+  by_cases hx0 : x ≤ 0
+  · apply le_trans
+        (mul_nonpos_of_nonneg_of_nonpos (Real.exp_pos 1).le hx0) (Real.exp_nonneg x)
+  · have h := Real.add_one_le_exp (Real.log x)
+    rwa [← Real.exp_le_exp, Real.exp_add, Real.exp_log (lt_of_not_le hx0), mul_comm] at h
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/Log/Basic.lean:63]: Can you move that lemma down, below `log_exp`? Right now it is in the middle of lemmas describing the composition of exp and log.
Various code remarks:
- this is placed in the `Real` namespace, so you don't need all the `Real.`
- let's not use dot notation for `exp x`, as `x.exp` is less readable.
- using an explicit argument might make the lemma more usable (in `have` statements notably)
```suggestion
theorem exp_one_mul_le_exp (x : ℝ) : exp 1 * x ≤ exp x := by
  by_cases hx0 : x ≤ 0
  · apply le_trans mul_nonpos_of_nonneg_of_nonpos (exp_pos 1).le hx0) (exp_nonneg x)
  · have h := add_one_le_exp (log x)
    rwa [← exp_le_exp, exp_add, exp_log (lt_of_not_le hx0), mul_comm] at h
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 11]
```diff
@@ -0,0 +1,193 @@
...
+
+open NNReal ENNReal BoundedContinuousFunction Filter
+
+namespace Real
+
+section mulExpNegSq
+
+/-! ### Definition and properties of `fun x => x * Real.exp (- x * x)`-/
+
+/-- Definition of `mulExpNegSq` -/
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:35]: The docstring should explain what the object is: think about someone who sees `mulExpNegSq` in code somewhere, and puts their mouse over it to get a tooltip and understand what that definition is.
"Definition of `mulExpNegSq`" does not tell us what `mulExpNegSq` is about.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 12]
```diff
@@ -0,0 +1,193 @@
...
+noncomputable
+def mulExpNegSq (x : ℝ) := x * exp (- x * x)
+
+theorem mulExpNegSq_apply (x : ℝ) : mulExpNegSq x = x * exp (- x * x) :=  rfl
+
+theorem neg_mulExpNegSq_neg (x : ℝ) : - mulExpNegSq (-x) = mulExpNegSq x  := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:41]:
```suggestion
theorem neg_mulExpNegSq_neg (x : ℝ) : - mulExpNegSq (-x) = mulExpNegSq x := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 13]
```diff
@@ -0,0 +1,193 @@
...
+
+section mulExpNegSq
+
+/-! ### Definition and properties of `fun x => x * Real.exp (- x * x)`-/
+
+/-- Definition of `mulExpNegSq` -/
+noncomputable
+def mulExpNegSq (x : ℝ) := x * exp (- x * x)
+
+theorem mulExpNegSq_apply (x : ℝ) : mulExpNegSq x = x * exp (- x * x) :=  rfl
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:39]:
```suggestion
theorem mulExpNegSq_apply (x : ℝ) : mulExpNegSq x = x * exp (- x * x) := rfl
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 14]
```diff
@@ -0,0 +1,193 @@
...
+
+theorem neg_mulExpNegSq_neg (x : ℝ) : - mulExpNegSq (-x) = mulExpNegSq x  := by
+  simp only [mulExpNegSq, neg_mul, neg_neg, mul_neg]
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:42]: According to recent discussions, there seems to be a consensus emerging that a terminal simp is more maintainable if it's not squeezed. (I hope I unsqueezed it correctly: I did not test that code)
```suggestion
  simp [mulExpNegSq]
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 15]
```diff
@@ -0,0 +1,193 @@
...
+theorem mulExpNegSq_le_one (x : ℝ) : mulExpNegSq x ≤ 1 := by
+  rw [mulExpNegSq_apply, neg_mul, ← le_div_iff₀ (exp_pos (-(x * x))), exp_neg,
+    div_inv_eq_mul, one_mul]
+  apply le_trans _ (add_one_le_exp (x * x))
+  nlinarith
+
+theorem abs_mulExpNegSq_le_one (x : ℝ) : |mulExpNegSq x| ≤ 1 := by
+  apply abs_le.mpr ⟨_, mulExpNegSq_le_one x⟩
+  rw [← neg_mulExpNegSq_neg, neg_le_neg_iff]
+  exact mulExpNegSq_le_one (-x)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:53]: Could you extract from that proof a lemma that states `-1 ≤ mulExpNegSq x`, place it above and use it here?

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 16]
```diff
@@ -0,0 +1,193 @@
...
+
+theorem deriv_expNegSq (y : ℝ) :
+    deriv (fun (x : ℝ) => exp (-x * x)) y = -2 * y * exp (-y * y) := by
+  simp only [neg_mul, differentiableAt_neg_iff, differentiableAt_id', DifferentiableAt.mul,
+    _root_.deriv_exp, deriv.neg', deriv_mul, deriv_id'', one_mul, mul_one, neg_add_rev]
+  ring
+
+theorem expNegSq_differentiableAt (y : ℝ) :
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:61]: Our naming convention is that the property of the function should be placed first, so that name should be `differentiableAt_expNegSq`. Could you change this and other lemmas accordingly?

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 17]
```diff
@@ -0,0 +1,193 @@
...
+    div_inv_eq_mul, one_mul]
+  apply le_trans _ (add_one_le_exp (x * x))
+  nlinarith
+
+theorem abs_mulExpNegSq_le_one (x : ℝ) : |mulExpNegSq x| ≤ 1 := by
+  apply abs_le.mpr ⟨_, mulExpNegSq_le_one x⟩
+  rw [← neg_mulExpNegSq_neg, neg_le_neg_iff]
+  exact mulExpNegSq_le_one (-x)
+
+theorem deriv_expNegSq (y : ℝ) :
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:55]: It would be better to have the following order for derivative lemmas:
- first `differentiableAt`, `differentiable`
- then `HasDerivAt`
- finally a lemma about `deriv`, using `HasDerivAt.deriv` for the proof

Same for the derivative of `mulExpNegSq`

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 18]
```diff
@@ -0,0 +1,193 @@
...
+theorem expNegSq_differentiable : Differentiable ℝ (fun (x : ℝ) => exp (-x * x)) :=
+  fun _ => expNegSq_differentiableAt _
+
+theorem deriv_mulExpNegSq (x : ℝ) : deriv (fun x => x * exp (- x * x)) x =
+    exp (-x * x) + x * (-2 * x * exp (-x * x)) := by
+  nth_rw 1 [← one_mul (exp (-x * x)), ← (deriv_id x)]
+  rw [← deriv_expNegSq x]
+  apply deriv_mul differentiableAt_id' (expNegSq_differentiableAt x)
+
+theorem deriv_mulExpNegSq_le_one (x : ℝ) : ‖deriv (fun y ↦ y * exp (-y * y)) x‖₊ ≤ 1 := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:75]:
```suggestion
theorem nnnorm_deriv_mulExpNegSq_le_one (x : ℝ) : 
    ‖deriv (fun y ↦ y * exp (-y * y)) x‖₊ ≤ 1 := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 19]
```diff
@@ -0,0 +1,193 @@
...
+  rw [← NNReal.coe_le_coe, coe_nnnorm, norm_eq_abs, deriv_mulExpNegSq x]
+  have heq : exp (-x * x) + x * (-2 * x * exp (-x * x)) = exp (-x * x) * (1 + 2 * -x * x) := by
+    ring
+  rw [heq, abs_mul, abs_exp]
+  let y := x * x
+  have hy : y = x * x := by rfl
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:81]:
```suggestion
  set y := x * x with hy
```
(if I remember correctly the `set` syntax)

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 20]
```diff
@@ -0,0 +1,193 @@
...
+        norm_num
+      apply mul_le_mul_of_nonneg_right this (mul_self_nonneg x)
+    apply le_trans twomul_le_exp _
+    simp only [le_add_iff_nonneg_right, zero_le_one]
+  · apply le_trans (one_le_exp (mul_self_nonneg x)) (le_add_of_nonneg_right _)
+    simp [hy, (mul_self_nonneg x)]
+
+theorem mulExpNegSq_lipschitzWith_one : LipschitzWith 1 mulExpNegSq := by
+  apply lipschitzWith_of_nnnorm_deriv_le
+      (Differentiable.mul differentiable_id' expNegSq_differentiable) deriv_mulExpNegSq_le_one
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:99]: - you don't need `by apply` (the apply is terminal so should be `exact`, and `by exact` does nothing: it goes to tactic mode with `by` and then back to term mode with `exact`)
- 2 spaces are enough to indent, don't need 4
- the lipschitzWith should come before the name of the function in the name
```suggestion
theorem lipschitzWith_one_mulExpNegSq : LipschitzWith 1 mulExpNegSq :=
  lipschitzWith_of_nnnorm_deriv_le
    (Differentiable.mul differentiable_id' expNegSq_differentiable) deriv_mulExpNegSq_le_one
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 21]
```diff
@@ -0,0 +1,193 @@
...
+
+end mulExpNegSq
+
+section mulExpNegMulSq
+
+/-! ### Definition and properties of `mulExpNegMulSq g ε` -/
+
+variable {E: Type*}
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:107]:
```suggestion
variable {E : Type*}
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 22]
```diff
@@ -0,0 +1,193 @@
...
+
+/--
+`mulExpNegMulSq` transforms a function `g` into another function with useful
+boundedness and convergence properties.
+-/
+noncomputable
+def mulExpNegMulSq (g : E → ℝ) (ε : ℝ) : E → ℝ := (fun x => (g x) * exp (- (ε * (g x) * (g x))))
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:114]: Don't need that many parentheses:
```suggestion
def mulExpNegMulSq (g : E → ℝ) (ε : ℝ) : E → ℝ := fun x => g x * exp (- (ε * g x * g x))
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean (hunk 21 above)
Comment (RemyDegenne) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:107]: You should add x, epsilon and g to that variable line instead of having them at every lemma.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean [hunk 23]
```diff
@@ -0,0 +1,193 @@
...
+    rw [sq_sqrt hε.le, mul_comm]
+  rw [h, eq_inv_mul_iff_mul_eq₀ _]
+  · ring_nf
+  · intro h
+    rw [← pow_eq_zero_iff (Ne.symm (Nat.zero_ne_add_one 1)), sq_sqrt hε.le] at h
+    linarith
+
+/-- if `ε > 0`, then `mulExpNegMulSq g` is bounded by `ε.sqrt⁻¹` -/
+theorem abs_mulExpNegMulSq_le {g : E → ℝ} {ε : ℝ} (hε : ε > 0)
+    (x : E) : abs (mulExpNegMulSq g ε x) ≤ ε.sqrt⁻¹ := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:131]: Cutting there makes a better separation between hypotheses and result:
```suggestion
theorem abs_mulExpNegMulSq_le {g : E → ℝ} {ε : ℝ} (hε : ε > 0) (x : E) :
    abs (mulExpNegMulSq g ε x) ≤ ε.sqrt⁻¹ := by
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean (hunk 22 above)
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:114]: It feels like this should not use `g`: this is the composition of `fun x => x * exp (- (ε * x * x))` and `g` and it would be better to have a definition for `fun x => x * exp (- (ε * x * x))` alone? (you could generalize `mulExpNegSq` and have only one new def).

**Review by RemyDegenne — COMMENTED** [review]
Thanks for this PR!
Here is a mix of comments about style and about the new definitions introduced.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean (hunk 19 above)
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean:81]: Thanks!

File: Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean (hunk 22 above)
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegSq.lean]: Done. Now there is only one definition `mulExpNegMulSq := fun ε x => x * exp(- (ε * x * x)`. Then the desired transformation of `g` is `(mulExpNegMulSq ε).comp g`.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 24]
```diff
@@ -0,0 +1,216 @@
...
+  exact abs_mulExpNegMulSq_one_le_one (ε.sqrt * g x)
+
+theorem dist_mulExpNegMulSq_comp_le_two_mul_sqrt (hε : ε > 0) (x y : E) :
+    dist ((mulExpNegMulSq ε).comp g x) ((mulExpNegMulSq ε).comp g y) ≤ 2 * ε.sqrt⁻¹ := by
+  apply le_trans (dist_triangle ((mulExpNegMulSq ε).comp g x) 0 ((mulExpNegMulSq ε).comp g y))
+  simp only [dist_zero_right, norm_eq_abs, dist_zero_left, two_mul]
+  exact add_le_add (abs_mulExpNegMulSq_comp_le hε) (abs_mulExpNegMulSq_comp_le hε)
+
+theorem dist_mulExpNegMulSq_comp_le_dist {f : E → ℝ} (hε : ε > 0) :
+    dist ((mulExpNegMulSq ε).comp g x) ((mulExpNegMulSq ε).comp f x) ≤ dist (g x) (f x) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:167]: This statement seems to be saying that `mulExpNegMulSq ε` is `1`-Lipschitz. Could you extract that as a separate lemma, after the same statement for `mulExpNegMulSq_one`?

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 25]
```diff
@@ -0,0 +1,216 @@
...
+Authors: Jakob Stiefel
+-/
+import Mathlib.Data.Complex.ExponentialBounds
+import Mathlib.Topology.ContinuousMap.Bounded.Basic
+
+/-!
+# Definition of `mulExpNegMulSq` and properties
+
+`mulExpNegMulSq` is the mapping `fun (ε : ℝ) (x : ℝ) => x * Real.exp (- (ε * x * x))`. By
+composition, It can be used to transform a function `g : E → ℝ` into a bounded function
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:13]:
```suggestion
composition, it can be used to transform a function `g : E → ℝ` into a bounded function
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 26]
```diff
@@ -0,0 +1,216 @@
...
+
+/--
+`mulExpNegMulSq ε` transforms a function `g` into another function with useful
+boundedness and convergence properties.
+-/
+
+theorem mulExpNegMulSq_eq_sqrt_mul_mulExpNegMulSq_one (hε : ε > 0) :
+    (mulExpNegMulSq ε).comp g x
+    = ε.sqrt⁻¹ * mulExpNegMulSq 1 (sqrt ε * g x) := by
+  simp [mulExpNegMulSq]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:142]: Please squeeze this nonterminal simp.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 27]
```diff
@@ -0,0 +1,216 @@
...
+  apply le_trans (hlip) (le_of_eq _)
+  nth_rewrite 3 [← abs_of_pos (sqrt_pos_of_pos hε)]
+  rw [← abs_mul, mul_sub_left_distrib ε.sqrt _ _]
+  exact rfl
+
+/--
+For fixed function `g`, `(mulExpNegMulSq ε).comp g` converges pointwise to `g`, as `ε → 0`.
+-/
+theorem tendsto_mulExpNegMulSq_comp :
+    Tendsto (fun ε => (mulExpNegMulSq ε).comp g x) (nhds 0) (nhds (g x)) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:186]:
```suggestion
    Tendsto (fun ε => (mulExpNegMulSq ε).comp g x) (𝓝 0) (𝓝 (g x)) := by
```
You will need to `open scoped Topology` at the top of the file for this.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 28]
```diff
@@ -0,0 +1,216 @@
...
+  have : g x = (fun ε : ℝ => (mulExpNegMulSq ε).comp g x) 0 := by
+    simp [mulExpNegMulSq]
+  rw [this]
+  apply Continuous.tendsto (Continuous.mul continuous_const _)
+  apply (Continuous.rexp (Continuous.neg _))
+  exact Continuous.mul (Continuous.mul continuous_id' (continuous_const)) continuous_const
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:192]:
```suggestion
  apply Continuous.tendsto (Continuous.mul continuous_const (by fun_prop))
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 29]
```diff
@@ -0,0 +1,216 @@
...
+
+variable [TopologicalSpace E]
+
+/-- If the function `g` is continuous, `(mulExpNegMulSq ε).comp g` is continuous. -/
+@[continuity]
+theorem continuous_mulExpNegMulSq_comp (hg: Continuous g) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:198]:
```suggestion
theorem continuous_mulExpNegMulSq_comp (hg : Continuous g) :
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 30]
```diff
@@ -0,0 +1,216 @@
...
+    simp [mulExpNegMulSq]
+  rw [this]
+  apply Continuous.tendsto (Continuous.mul continuous_const _)
+  apply (Continuous.rexp (Continuous.neg _))
+  exact Continuous.mul (Continuous.mul continuous_id' (continuous_const)) continuous_const
+
+variable [TopologicalSpace E]
+
+/-- If the function `g` is continuous, `(mulExpNegMulSq ε).comp g` is continuous. -/
+@[continuity]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:197]:
```suggestion
@[continuity, fun_prop]
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 31]
```diff
@@ -0,0 +1,216 @@
...
+    ring_nf
+    rw [sq_sqrt hε.le, mul_comm]
+  rw [h, eq_inv_mul_iff_mul_eq₀ _]
+  · ring_nf
+  · intro h
+    rw [← pow_eq_zero_iff (Ne.symm (Nat.zero_ne_add_one 1)), sq_sqrt hε.le] at h
+    linarith
+
+/-- if `ε > 0`, then `(mulExpNegMulSq ε).comp g` is bounded by `ε.sqrt⁻¹` -/
+theorem abs_mulExpNegMulSq_comp_le (hε : ε > 0) : |(mulExpNegMulSq ε).comp g x| ≤ ε.sqrt⁻¹ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:153]: The standard writing, here and elsewhere in this file, should be `(mulExpNegMulSq ε) ∘ g` instead of `(mulExpNegMulSq ε).comp g`.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean (hunk 24 above)
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean]: Actually, I realized that I can state the all the results on derivatives directly for `mulExpNegMulSq` without any difficulties. The results on `mulExpNegMulSq_one` arise as special case. I removed the results on `expNegSq` and `mulExpNegSq` from this file, because this file is about properties of `mulExpNegMulSq`

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 32]
```diff
@@ -0,0 +1,190 @@
...
+end mulExpNegMulSq
+
+section mulExpNegMulSq_comp
+
+/-! ### Properties of `(mulExpNegMulSq ε) ∘ g` -/
+
+variable {E : Type*} {g : E → ℝ} {ε : ℝ} {x : E}
+
+/-- if `ε > 0`, then `(mulExpNegMulSq ε) ∘ g` is bounded by `(sqrt ε)⁻¹` -/
+theorem abs_mulExpNegMulSq_comp_le (hε : ε > 0) : |((mulExpNegMulSq ε) ∘ g) x| ≤ (sqrt ε)⁻¹ := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:139]: In all lemmas at the end of this file (except perhaps the last one), the function `g` plays no role at all and should be removed.

This lemma should state that `|mulExpNegMulSq ε x| ≤ (sqrt ε)⁻¹`, the next one could be `dist (mulExpNegMulSq ε x) (mulExpNegMulSq ε y) ≤ 2 * (sqrt ε)⁻¹`, etc. The limit result is a consequence of `Tendsto (fun ε => mulExpNegMulSq ε x) (𝓝 0) (𝓝 x)` applied at `g x`, the continuity result follows from continuity of `mulExpNegMulSq`.

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 33]
```diff
@@ -0,0 +1,190 @@
...
+  rw [heq, abs_mul, abs_exp]
+  set y := ε * x * x with hy
+  have hynonneg : 0 ≤ y := by
+    rw [hy, mul_assoc]
+    exact mul_nonneg hε.le (mul_self_nonneg x)
+  --rw [← hy]
+  apply mul_le_of_le_inv_mul₀ (zero_le_one' ℝ) (exp_nonneg _)
+  simp [← exp_neg (-y), abs_le]
+  constructor
+  · have twomul_le_exp : 2 * y ≤ exp y := by
```
[the remark this answers is not in the document]
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:98]: It also needs `exp_one_gt_d9`. I could put it after this result, but does it belong there?

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean]: Isn't it enough to use `sum_le_exp_of_nonneg` with `n=2`?

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean (hunk 32 above)
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean]: True! I removed `g`from all results but the last one

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean (hunk 33 above)
[the remark this answers is not in the document]
Comment (JakobStiefel) [reply Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean]: `add_one_le_exp 1` works. I separated the lemma and put it after `exp_one_mul_le_exp`

**Comment by RemyDegenne** [comment]
Is this still `awaiting-author`? It looks like all the comments are marked as resolved. Did you forget to remove the tag?

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 34]
```diff
@@ -0,0 +1,165 @@
...
+    Tendsto (fun ε => mulExpNegMulSq ε x) (𝓝 0) (𝓝 x) := by
+  have : x = (fun ε : ℝ => mulExpNegMulSq ε x) 0 := by
+    simp only [mulExpNegMulSq, zero_mul, neg_zero, exp_zero, mul_one]
+  nth_rw 2 [this]
+  apply Continuous.tendsto (Continuous.mul continuous_const (by fun_prop))
+
+/--
+For a fixed bounded function `g`, `mulExpNegMulSq ε ∘ g` is bounded by `norm g`, uniformly in
+`ε ≥ 0`.
+-/
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:156]:
```suggestion
/-- For a fixed bounded function `g`, `mulExpNegMulSq ε ∘ g` is bounded by `norm g`,
uniformly in `ε ≥ 0`. -/
```

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean [hunk 35]
```diff
@@ -0,0 +1,165 @@
...
+  exact mulExpNegMulSq_one_le_one (-x)
+
+theorem abs_mulExpNegMulSq_one_le_one (x : ℝ) : |mulExpNegMulSq 1 x| ≤ 1 :=
+  abs_le.mpr ⟨neg_one_le_mulExpNegMulSq_one x, mulExpNegMulSq_one_le_one x⟩
+
+variable {ε : ℝ}
+
+@[continuity, fun_prop]
+theorem continuous_mulExpNegMulSq : Continuous (fun x => mulExpNegMulSq ε x) :=
+  Continuous.mul continuous_id (by fun_prop)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSq.lean:67]: This is one place where having the compositional lemma you wrote earlier is useful, and where I should not have told you to remove it:
```suggestion
@[continuity, fun_prop]
theorem continuous_mulExpNegMulSq : Continuous (mulExpNegMulSq ε) :=
  Continuous.mul continuous_id (by fun_prop)
 
 @[continuity, fun_prop]
theorem _root_.Continuous.mulExpNegMulSq {α : Type*} [TopologicalSpace α] {f : α → ℝ} (hf : Continuous f) :
    Continuous (fun x => mulExpNegMulSq ε (f x)) :=
  continuous_mulExpNegMulSq.comp hf
```
That second lemma is an immediate consequence of the first but it allows you to write `hf.mulExpNegMulSq` for a short continuity proof.

**Review by RemyDegenne — APPROVED** [review]
This PR looks good to me. You can merge yourself by writing `bors r+` once you have resolved the last comments.
bors d+

**Comment by JakobStiefel** [comment]
> ✌️ JakobStiefel can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+
